* FILE: MMI_FFB.sp


* SPICE netlist for "MMI_FFB" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_FFB clk d q 
Minverter._0 q N5 gnd gnd n W='0.92*1u' L=ln_min  
Minverter._1 q N5 vdd vdd p W='1.84*1u' L=lp_min  
Minverter_1._2 clk_L clk gnd gnd n W='0.46*1u' L=ln_min 
Minverter_1._3 clk_L clk vdd vdd p W='0.92*1u' L=lp_min 
M_4_1 net_1 N5 gnd gnd n W='0.42*1u' L=ln_min  
M_5_1 N4 clk net_2 vdd p W='0.42*1u' L=lp_min  
M_6_1 N4 clk_L net_1 gnd n W='0.42*1u' L=ln_min  
M_7_1 net_2 N5 vdd vdd p W='0.42*1u' L=lp_min  
M_8_1 net_3 N3 vdd vdd p W='0.42*1u' L=lp_min  
M_9_1 N2 clk_L net_3 vdd p W='0.42*1u' L=lp_min  
M_10_1 N2 clk net_4 gnd n W='0.42*1u' L=ln_min  
M_11_1 net_4 N3 gnd gnd n W='0.42*1u' L=ln_min  
Mxgate._12 N4 clk_L N3 vdd p W='0.92*1u' L=lp_min  
Mxgate._13 N4 clk N3 gnd n W='0.42*1u' L=ln_min  
Mxgate_1._14 net_5 clk N2 vdd p W='0.92*1u' L=lp_min  
Mxgate_1._15 net_5 clk_L N2 gnd n W='0.42*1u' L=ln_min  
Minverter_2._16 N5 N4 gnd gnd n W='0.62*1u' L=ln_min  
Minverter_2._17 N5 N4 vdd vdd p W='0.92*1u' L=lp_min  
Minverter_3._18 N3 N2 gnd gnd n W='0.46*1u' L=ln_min  
Minverter_3._19 N3 N2 vdd vdd p W='0.92*1u' L=lp_min  
Minverter_4._20 net_5 d gnd gnd n W='0.46*1u' L=ln_min  
Minverter_4._21 net_5 d vdd vdd p W='0.92*1u' L=lp_min  
.ic N4=0V
.ENDS	$ MMI_FFB

