* FILE: MMI_FFCB.sp


* SPICE netlist for "MMI_FFCB" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_FFCB clk clrb d q 
Minverter._0 q N5 gnd gnd n W='0.92*1u' L=ln_min  
Minverter._1 q N5 vdd vdd p W='1.84*1u' L=lp_min  
Minverter_1._2 clk_L clk gnd gnd n W='0.46*1u' L=ln_min 
Minverter_1._3 clk_L clk vdd vdd p W='0.92*1u' L=lp_min 
M_4_1 net_1 N5 gnd gnd n W='0.42*1u' L=ln_min  
M_5_1 N4 clk net_2 vdd p W='0.42*1u' L=lp_min  
M_6_1 N4 clk_L net_1 gnd n W='0.42*1u' L=ln_min  
M_7_1 net_2 N5 vdd vdd p W='0.42*1u' L=lp_min  
M_8_1 net_3 N3 vdd vdd p W='0.42*1u' L=lp_min  
M_9_1 N2 clk_L net_3 vdd p W='0.42*1u' L=lp_min  
M_10_1 N2 clk net_4 gnd n W='0.42*1u' L=ln_min  
M_11_1 net_4 N3 gnd gnd n W='0.42*1u' L=ln_min  
Mxgate._12 N4 clk_L N3 vdd p W='0.92*1u' L=lp_min  
Mxgate._13 N4 clk N3 gnd n W='0.42*1u' L=ln_min  
Mxgate_1._14 N1 clk N2 vdd p W='0.92*1u' L=lp_min  
Mxgate_1._15 N1 clk_L N2 gnd n W='0.42*1u' L=ln_min  
Minverter_2._16 clear clrb gnd gnd n W='0.6*1u' L=ln_min 
Minverter_2._17 clear clrb vdd vdd p W='1.2*1u' L=lp_min 
Mnand2._18 N5 N4 vdd vdd p W='0.92*1u' L=lp_min  
Mnand2._19 N5 N4 nand2%net_1 gnd n W='1.24*1u' L=ln_min 
Mnand2._20 N5 clrb vdd vdd p W='0.92*1u' L=lp_min  
Mnand2._21 nand2%net_1 clrb gnd gnd n W='1.24*1u' L=ln_min 
Mnor2._22 N3 N2 gnd gnd n W='0.46*1u' L=ln_min  
Mnor2._23 N3 N2 nor2%net_1 vdd p W='1.84*1u' L=lp_min  
Mnor2._24 N3 clear gnd gnd n W='0.46*1u' L=ln_min  
Mnor2._25 nor2%net_1 clear vdd vdd p W='1.84*1u' L=lp_min 
Minverter_3._26 N1 d gnd gnd n W='0.92*1u' L=ln_min  
Minverter_3._27 N1 d vdd vdd p W='1.84*1u' L=lp_min  
.ic N4=0V
.ENDS	$ MMI_FFCB

