* FILE: MMI_INAND2A.sp


* SPICE netlist for "MMI_INAND2A" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_INAND2A in0 in1 out 
Mnand2._0 out in1_L vdd vdd p W='0.77*1u' L=lp_min  
Mnand2._1 out in1_L nand2%net_1 gnd n W='0.77*1u' L=ln_min 
Mnand2._2 out in0 vdd vdd p W='0.77*1u' L=lp_min  
Mnand2._3 nand2%net_1 in0 gnd gnd n W='0.77*1u' L=ln_min 
Minverter._4 in1_L in1 gnd gnd n W='0.385*1u' L=ln_min 
Minverter._5 in1_L in1 vdd vdd p W='0.77*1u' L=lp_min  
.ENDS	$ MMI_INAND2A

