* FILE: MMI_INOR2A.sp


* SPICE netlist for "MMI_INOR2A" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_INOR2A in0 in1 out 
Mnor2._0 out in1_L gnd gnd n W='0.46*1u' L=ln_min  
Mnor2._1 out in1_L nor2%net_1 vdd p W='1.84*1u' L=lp_min 
Mnor2._2 out in0 gnd gnd n W='0.46*1u' L=ln_min  
Mnor2._3 nor2%net_1 in0 vdd vdd p W='1.84*1u' L=lp_min  
Minverter._4 in1_L in1 gnd gnd n W='0.46*1u' L=ln_min  
Minverter._5 in1_L in1 vdd vdd p W='0.92*1u' L=lp_min  
.ENDS	$ MMI_INOR2A

